US09290504B2
To a solution of (S)-4-(8-amino-3-(pyrrolidin-2-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide (0.626 mmol, 250 mg) in dichloromethane (25 ml) at 0° C. was added triethylamine (0.626 mmol, 0.087 ml, 63.3 mg) and, drop wise, acryloyl chloride (0.657 mmol, 0.053 ml, 59.5 mg). The resulting mixture was stirred at 0° C. for 2 hours. The mixture was washed with water, dried over magnesium sulfate. After evaporation, the residue was purified by preparative HPLC. Fractions containing product were collected and lyophilized to afford 126 mg of (S)-4-(3-(1-acryloylpyrrolidin-2-yl)-8-aminoimidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide (44.4% yield). Data: UPLC (C) Rt: 1.50 min; m/z 454.3 (M+H)+.

reactant | (S)-4-(8-amino-3-(pyrrolidin-2-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide | 0.626 mmol, 250 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC=C1)C=C2)[C@H]2NCCC2 | C22H21N7O
reactant | triethylamine | 0.626 mmol, 0.087 ml, 63.3 mg | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.657 mmol, 0.053 ml, 59.5 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (S)-4-(3-(1-acryloylpyrrolidin-2-yl)-8-aminoimidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide | 126 mg, 44.4% yield | C(C=C)(=O)N1[C@@H](CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C(C(=O)NC1=NC=CC=C1)C=C2 | C25H23N7O2
